US05213606
Preparation of Ethyl N-{2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl]cysteine, L-
Triethylamine is added to a stirred mixture of L-cysteine ethyl ester hydrochloride (2.71 g, 14.66 mmol) in chloroform under nitrogen. After the reaction mixture is cooled to 0° C., a solution of 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl chloride (5.08 g, 1 4.66 mmol) in chloroform (30 mL) is added dropwise with stirring. The reaction mixture is then stirred overnight at room temperature, concentrated in vacuo and filtered to obtain a semi-solid. Chromatography of the semi-solid using silica gel and eluting with methylene chloride followed by 2% to 5% ethyl acetate in methylene chloride gives the title product as a white solid, mp 89°-91° C.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | L-cysteine ethyl ester hydrochloride | 14.66 mmol, 2.71 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | 2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl chloride | 4.66 mmol, 5.08 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C14H10Cl3NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl N-{2-{p-[(3,5-dichloro-2-pyridyl)oxy]phenoxy}propionyl]cysteine | C(C)N([C@@H](CS)C(=O)O)C(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)Cl)=O | C19H20Cl2N2O5S
